US08304557B2
N-[6-(3-{[isopropylcarbamoyl]amino}phenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide
A mixture of N-[6-(3-aminophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide (19.3 mg, 0.063 mmol), 2-isocyanatopropane (25.3 mg, 0.297 mmol) and pyridine (1.5 mL) was stirred at 80° C. for 23 hr. The reaction mixture was diluted with aqueous sodium hydrogen carbonate solution and extracted with ethyl acetate. The organic layer was concentrated, and the residue was purified by preparative HPLC to give the title compound (15.2 mg, 62%).

reactant | N-[6-(3-aminophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide | 0.063 mmol, 19.3 mg | NC=1C=C(OC=2C=CC=3N(C2)C=C(N3)NC(=O)C3CC3)C=CC1 | C17H16N4O2
reactant | 2-isocyanatopropane | 0.297 mmol, 25.3 mg | N(=C=O)C(C)C | C4H7NO
reactant | pyridine | 1.5 mL | N1=CC=CC=C1 | C5H5N
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | N-[6-(3-{[isopropylcarbamoyl]amino}phenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide | 15.2 mg, 62% | C(C)(C)NC(=O)NC=1C=C(OC=2C=CC=3N(C2)C=C(N3)NC(=O)C3CC3)C=CC1 | C21H23N5O3
